US06992087B2
Preparation of (1R,2S)-1-{[5-(2-chloro-4-methoxyphenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol
Following the procedure for the preparation of (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol but substituting 2-chloro-4-methoxyphenylboronic acid and making non-critical variations provided the title compound as an off-white amorphous solid. IR (diffuse reflectance) 2969, 2934, 1604, 1568, 1550, 1482, 1448, 1439, 1392, 1287, 1228, 1203, 1180, 1045, 740 cm−1; OAMS supporting ions at: ESI+ 423.9; MS (CI) m/z 424 (MH+); HRMS (FAB) calcd for C24H26CLN3O2+H1 424.1792, found 424.1789. Anal. Calcd for C24H26ClN3O2: C, 68.00; H, 6.18; N, 9.91. Found: C, 67.86; H, 6.29; N, 9.79.

reactant | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C23H23Cl2N3O
reactant | 2-chloro-4-methoxyphenylboronic acid | ClC1=C(C=CC(=C1)OC)B(O)O | C7H8BClO3
product | (1R,2S)-1-{[5-(2-chloro-4-methoxyphenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C24H26ClN3O2
